US06436923B1
C. 2-(4-Fluorophenyl)-5-methoxy-1-{4-[(2-piperidyl)ethoxy]benzyl}isoindoline
To a solution of 2-(4-fluorophenyl)-6-methoxy-3-{4-[(2-piperidyl)ethoxy]benzyl}isoindolin-1-one (0.50 g, 1.05 mmol) in tetrahydrofuran (10 mL) under nitrogen was added a 1.5 M solution of borane-tetrahydrofuran complex in tetrahydrofuran (2 mL, 3 mmol). After heating at reflux for 5 hours, the reaction was cooled to room temperature, 6 N HCl solution (6 mL) was added, and the reaction was stirred for 1 hour at room temperature. The mixture was basified with a saturated sodium bicarbonate solution and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 20-30% ethyl acetate/hexane) to provide the title compound (0.297 g, 61% yield): 1H NMR (CDCl3) 7.05 (t, 2H), 6.91 (d, 1H), 6.78 (dd, 1H), 6.61-6.72 (m, 7H), 5.24 (m, 1H), 4.30-4.41 (m, 3H), 4.15 (dd, 1H), 3.80 (s, 3H), 3.17 (t, 2H), 2.98-3.10 (m, 4H), 2.91 (m, 2H), 1.81 (m, 4H), 1.56 (m, 2H); ES-MS (m/z) 461 [M+H]+.

reactant | 2-(4-fluorophenyl)-6-methoxy-3-{4-[(2-piperidyl)ethoxy]benzyl}isoindolin-1-one | 1.05 mmol, 0.50 g | FC1=CC=C(C=C1)N1C(C2=CC(=CC=C2C1CC1=CC=C(C=C1)OCCC1NCCCC1)OC)=O | C29H31FN2O3
reactant | HCl | 6 N, 6 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mmol, 2 mL | O1CCCC1 | C4H8O
product | 2-(4-Fluorophenyl)-5-methoxy-1-{4-[(2-piperidyl)ethoxy]benzyl}isoindoline | 0.297 g, 61% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C1)OC)CC1=CC=C(C=C1)OCCC1NCCCC1 | C29H33FN2O2
